US08017792B2
1.6 M n-butylithium hexane solution (30.5 mL) was added to a mixture of benzo[b]thiophene (6.6 g, 0.049 mol) and tetrahydrofuran (66 mL) at −78° C. After stirred for 0.5 hours, the reaction mixture was added with a tetrahydrofuran (50 mL) solution of 5-bromo-2-methoxybenzaldehyde (10.0 g, 0.047 mol), further stirred for five minutes and warmed to room temperature. After the reaction mixture was added with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to obtain pale yellow crystal (1-benzothien-2-yl)(5-bromo-2-methoxyphenyl)methanol (11.3 g, 69%).

reactant | hexane | 1.6 M, 30.5 mL | CCCCCC | C6H14
reactant | benzo[b]thiophene | 0.049 mol, 6.6 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | 5-bromo-2-methoxybenzaldehyde | 0.047 mol, 10.0 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 mL | O1CCCC1 | C4H8O
product | (1-benzothien-2-yl)(5-bromo-2-methoxyphenyl)methanol | 11.3 g, 69% | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)OC | C16H13BrO2S
